US09359359B2
To a solution of 3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-8-(2-(3-(trifluoromethoxy)phenoxy)ethoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione (1.2 g, 1.82 mmol) in THF (15 mL) was added TBAF (3.7 mL, 3.64 mmol). The mixture was stirred at 80° C. overnight. Then it was cooled, partitioned between ethyl acetate and water. The organic layers were combined, washed with water, dried over sodium sulfate, filtered and concentrated to give a crude product which was purified by column chromatography eluting with petroleum ether and ethyl acetate (2:1) to give 3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-8-(2-(3-(trifluoromethoxy)phenoxy)ethoxy)-1H-purine-2,6(3H,7H)-dione (900 mg, 93.7% yield) as a white solid. LCMS retention time 1.613; LCMS MH+-THP 445.

reactant | 3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-8-(2-(3-(trifluoromethoxy)phenoxy)ethoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione | 1.82 mmol, 1.2 g | CN1C(N(C(C=2N(C(=NC12)OCCOC1=CC(=CC=C1)OC(F)(F)F)COCC[Si](C)(C)C)=O)CCCOC1OCCCC1)=O | C29H41F3N4O8Si
reactant | TBAF | 3.64 mmol, 3.7 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-8-(2-(3-(trifluoromethoxy)phenoxy)ethoxy)-1H-purine-2,6(3H,7H)-dione | 900 mg, 93.7% yield | CN1C(N(C(C=2NC(=NC12)OCCOC1=CC(=CC=C1)OC(F)(F)F)=O)CCCOC1OCCCC1)=O | C23H27F3N4O7
